US09278954B2
2-(4-Hydroxy-phenyl)-propionic acid ethyl ester
To a mixture of 13.0 g (78.2 mmol) of 2-(4-hydroxyphenyl)propionic acid in 250 ml EtOH 5.82 ml (78.2 mmol) thionyl chloride are added slowly at 0° C. The reaction mixture is stirred at 70° C. for 2 h. After cooling to r.t. the solvent is removed in vacuo. The residue is mixed with toluene and the solvent is removed again.

reactant | 2-(4-hydroxyphenyl)propionic acid | 78.2 mmol, 13.0 g | OC1=CC=C(C=C1)C(C(=O)O)C | C9H10O3
reactant | EtOH | 78.2 mmol, 250 ml | CCO | C2H6O
product | 2-(4-Hydroxy-phenyl)-propionic acid ethyl ester | C(C)OC(C(C)C1=CC=C(C=C1)O)=O | C11H14O3
